US08138164B2
Step 2: Methyl N-{[(1,1-dimethylpent-4-en-1-yl)amino]carbonyl}-L-valinate
Methyl N-(oxomethylene)-L-valinate (2.80 g, 17.7 mmol) was added to 2-methylhex-5-en-2-amine [J. Org. Chem. (1976) 41(5) 855-863.] (2.00 g, 17.7 mmol) in THF (15 mL). After 5 minutes, the reaction mixture was evaporated to give the title compound as a solid, which was triturated with hexane and isolated by filtration (2.71 g). LRMS (M+H)+=271.4.

reactant | Methyl N-(oxomethylene)-L-valinate | 17.7 mmol, 2.80 g | O=C=N[C@@H](C(C)C)C(=O)OC | C7H11NO3
reactant | 2-methylhex-5-en-2-amine | 17.7 mmol, 2.00 g | CC(C)(CCC=C)N | C7H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Methyl N-{[(1,1-dimethylpent-4-en-1-yl)amino]carbonyl}-L-valinate | CC(CCC=C)(C)NC(=O)N[C@@H](C(C)C)C(=O)OC | C14H26N2O3
